US08258130B2
A solution of 5-fluoro-3-iodo-pyridin-2-ylamine (3 g, 12.6 mmol) in DCM (40 mL) is treated with TFAA (2.1 mL, 15.1 mmol) and pyridine (1.2 mL, 15.1 mmol), and stirred at rt for 2 h. The mixture is diluted with H2O (150 mL), and extracted with DCM (3×150 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is diluted with MeCN (40 mL), treated with trans-crotyl bromide (2 mL, 18.9 mmol) and K2CO3 (3.5 g, 25.2 mmol), and heated at reflux for 2 h. The mixture is cooled, filtered through a pad of Celite and concentrated. The residue is purified by silica gel chromatography eluting with 5%-30% EtOAc in heptane to afford N-but-2-enyl-2,2,2-trifluoro-N-(5-fluoro-3-iodo-pyridin-2-yl)-acetamide (2.5 g, 51%). MS: 389 (M+H); 1H NMR (300 MHz, CDCl3): δ 8.36 (m, 1H), 7.98 (s, 1H), 5.55 (m, 2H), 4.62 (m, 1H), 3.96 (m, 1H), 1.61 (m, 3H).

reactant | 5-fluoro-3-iodo-pyridin-2-ylamine | 12.6 mmol, 3 g | FC=1C=C(C(=NC1)N)I | C5H4FIN2
reactant | TFAA | 15.1 mmol, 2.1 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | pyridine | 15.1 mmol, 1.2 mL | N1=CC=CC=C1 | C5H5N
reactant | trans-crotyl bromide | 18.9 mmol, 2 mL | C(\C=C\C)Br | C4H7Br
reactant | K2CO3 | 25.2 mmol, 3.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 150 mL | O | H2O
product | N-but-2-enyl-2,2,2-trifluoro-N-(5-fluoro-3-iodo-pyridin-2-yl)-acetamide | 2.5 g, 51% | C(C=CC)N(C(C(F)(F)F)=O)C1=NC=C(C=C1I)F | C11H9F4IN2O
